US07608639B2
3-[4-(3-Bromo-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester
A mixture of 3-(4-hydroxy-2-methyl-phenyl)-propionic acid methyl ester (4.0 g, 20.6 mmol), 1-bromo-3-iodobenzene (17.49 g, 61.8 mmol), cesium carbonate (8.05 g, 24.7 mmol), copper (I) chloride (1.02 g, 10.3 mmol) and 2,2,6,6-tetramethyl-3,5-heptanedione (0.95 g, 5.15 mmol) in 1-methyl-2-pyrrolidinone (40 mL) is heated to 120° C. for 17 hours under N2. The reaction is cooled and quenched with 1 N HCl (50 mL). The mixture is then diluted with Et2O and extracted with water. The organic layer is dried (Na2SO4), and the solvent is removed in vacuo to afford crude product that is absorbed on silica gel and purified by flash chromatography using 9/1 hexanes/ethyl acetate to afford 4.30 g (60%) of the title compound. Rf=0.33 (4/1 hexanes/EtOAc). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C17H17O3Br 348, found 349 and 351 (M+1 and M+3, 100%).

reactant | 3-(4-hydroxy-2-methyl-phenyl)-propionic acid methyl ester | 20.6 mmol, 4.0 g | COC(CCC1=C(C=C(C=C1)O)C)=O | C11H14O3
reactant | 1-bromo-3-iodobenzene | 61.8 mmol, 17.49 g | BrC1=CC(=CC=C1)I | C6H4BrI
reactant | cesium carbonate | 24.7 mmol, 8.05 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | 5.15 mmol, 0.95 g | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
solvent | 1-methyl-2-pyrrolidinone | 40 mL | CN1C(CCC1)=O | C5H9NO
catalyst | copper (I) chloride | 10.3 mmol, 1.02 g | [Cu]Cl
product | 3-[4-(3-Bromo-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | 4.30 g, 60% | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC=C1)Br)C)=O | C17H17BrO3
